US04415571
5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are dissolved in 150 ml of absolute tetrahydrofuran by heating to 60° C., with stirring. The solution is allowed to cool to room temperature, 5.0 g (24.8 millimoles) of p-nitrophenyl chloroformate are added and the mixture is stirred first for 20 hours at room temperature and then for 5 hours under reflux. It is then concentrated to about 70 ml, 100 ml of water are added and the product is filtered off and recrystallized from dimethylformamide/water at room temperature, giving 6.5 g (72% of theory) of 4,5-dihydro-5-methyl-6-[p-(p-nitrophenoxycarbonylamino)-phenyl]-3(2H)-pyridazinone as yellow crystals, of melting point 177°-178° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | p-nitrophenyl chloroformate | 24.8 millimoles, 5.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-5-methyl-6-[p-(p-nitrophenoxycarbonylamino)-phenyl]-3(2H)-pyridazinone | 6.5 g, 72% | CC1CC(NN=C1C1=CC=C(C=C1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H16N4O5
